US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 3,4-difluoro-phenylboronic acid to give [1-(3,4-difluoro-phenyl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine. LC-MS m/e 323(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 3,4-difluoro-phenylboronic acid | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
product | [1-(3,4-difluoro-phenyl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine | FC=1C=C(C=CC1F)C1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C18H12F2N4
